US06495576B2
N-(1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl)-3,5-difluorobenzamide
A suspension of 3,5-difluorobenzamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 1C to provide the title compound.

reactant | 3,5-difluorobenzamide | FC=1C=C(C(=O)N)C=C(C1)F | C7H5F2NO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-(1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl)-3,5-difluorobenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(C2=CC(=CC(=C2)F)F)=O | C18H18F2N4O
